**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Current Sense Transformer
* Matchcode:              WE-CST 
* Library Type:           LTspice
* Version:                rev22b
* Created/modified by:    Toby      
* Date and Time:          2022-09-13
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************	
.subckt	749252020		3  4  1  2		
.param RxLkg=43.56ohm					
.param Leakage=0.01uh					
Rlkg	3	3a	{RxLkg}		
L_Lkg	3	3a	{Leakage}	Rser=0.001mohm	
Lpri1	3a	4	0.112uH	Rser=2.3mohm	
Lsec1	1	2	48.8uH	Rser=290mohm	
K Lpri1    Lsec1        1					
.param Cprm1=1080pf					
.param Rdmp1=531.42ohm					
Cpri1	3	4	{Cprm1}	Rser=10mohm	
Rdmp1	3	4	{Rdmp1}		
Rg3	3	0	20meg		
Rg7	4	0	20meg		
Rg11	1	0	20meg		
Rg19	2	0	20meg		
.ends					
	

.subckt	749252030		3  4  1  2		
.param RxLkg=29.04ohm					
.param Leakage=0.01uh					
Rlkg	3	3a	{RxLkg}		
L_Lkg	3	3a	{Leakage}	Rser=0.001mohm	
Lpri1	3a	4	0.112uH	Rser=2.3mohm	
Lsec1	1	2	109.8uH	Rser=660mohm	
K Lpri1    Lsec1        1					
.param Cprm1=2430pf					
.param Rdmp1=354.28ohm					
Cpri1	3	4	{Cprm1}	Rser=10mohm	
Rdmp1	3	4	{Rdmp1}		
Rg3	3	0	20meg		
Rg7	4	0	20meg		
Rg11	1	0	20meg		
Rg19	2	0	20meg		
.ends					
	

.subckt	749252040		3  4  1  2		
.param RxLkg=21.78ohm					
.param Leakage=0.01uh					
Rlkg	3	3a	{RxLkg}		
L_Lkg	3	3a	{Leakage}	Rser=0.001mohm	
Lpri1	3a	4	0.112uH	Rser=2.3mohm	
Lsec1	1	2	195.2uH	Rser=1030mohm	
K Lpri1    Lsec1        1					
.param Cprm1=4320pf					
.param Rdmp1=265.71ohm					
Cpri1	3	4	{Cprm1}	Rser=10mohm	
Rdmp1	3	4	{Rdmp1}		
Rg3	3	0	20meg		
Rg7	4	0	20meg		
Rg11	1	0	20meg		
Rg19	2	0	20meg		
.ends					
	

.subckt	749252050		3  4  1  2		
.param RxLkg=17.42ohm					
.param Leakage=0.01uh					
Rlkg	3	3a	{RxLkg}		
L_Lkg	3	3a	{Leakage}	Rser=0.001mohm	
Lpri1	3a	4	0.112uH	Rser=2.3mohm	
Lsec1	1	2	305uH	Rser=1660mohm	
K Lpri1    Lsec1        1					
.param Cprm1=6750pf					
.param Rdmp1=212.57ohm					
Cpri1	3	4	{Cprm1}	Rser=10mohm	
Rdmp1	3	4	{Rdmp1}		
Rg3	3	0	20meg		
Rg7	4	0	20meg		
Rg11	1	0	20meg		
Rg19	2	0	20meg		
.ends					
		

.subckt	749252060		3  4  1  2		
.param RxLkg=14.52ohm					
.param Leakage=0.01uh					
Rlkg	3	3a	{RxLkg}		
L_Lkg	3	3a	{Leakage}	Rser=0.001mohm	
Lpri1	3a	4	0.112uH	Rser=2.3mohm	
Lsec1	1	2	439.2uH	Rser=2530mohm	
K Lpri1    Lsec1        1					
.param Cprm1=9720pf					
.param Rdmp1=177.14ohm					
Cpri1	3	4	{Cprm1}	Rser=10mohm	
Rdmp1	3	4	{Rdmp1}		
Rg3	3	0	20meg		
Rg7	4	0	20meg		
Rg11	1	0	20meg		
Rg19	2	0	20meg		
.ends					
		

.subckt	749252070		3  4  1  2		
.param RxLkg=12.45ohm					
.param Leakage=0.01uh					
Rlkg	3	3a	{RxLkg}		
L_Lkg	3	3a	{Leakage}	Rser=0.001mohm	
Lpri1	3a	4	0.112uH	Rser=2.3mohm	
Lsec1	1	2	597.8uH	Rser=3730mohm	
K Lpri1    Lsec1        1					
.param Cprm1=13230pf					
.param Rdmp1=151.83ohm					
Cpri1	3	4	{Cprm1}	Rser=10mohm	
Rdmp1	3	4	{Rdmp1}		
Rg3	3	0	20meg		
Rg7	4	0	20meg		
Rg11	1	0	20meg		
Rg19	2	0	20meg		
.ends					
		

.subckt	749252100		3  4  1  2		
.param RxLkg=8.71ohm					
.param Leakage=0.01uh					
Rlkg	3	3a	{RxLkg}		
L_Lkg	3	3a	{Leakage}	Rser=0.001mohm	
Lpri1	3a	4	0.112uH	Rser=2.3mohm	
Lsec1	1	2	1220uH	Rser=7060mohm	
K Lpri1    Lsec1        1					
.param Cprm1=27000pf					
.param Rdmp1=106.28ohm					
Cpri1	3	4	{Cprm1}	Rser=10mohm	
Rdmp1	3	4	{Rdmp1}		
Rg3	3	0	20meg		
Rg7	4	0	20meg		
Rg11	1	0	20meg		
Rg19	2	0	20meg		
.ends					
		

.subckt	749252125		3  4  1  2		
.param RxLkg=6.97ohm					
.param Leakage=0.01uh					
Rlkg	3	3a	{RxLkg}		
L_Lkg	3	3a	{Leakage}	Rser=0.001mohm	
Lpri1	3a	4	0.112uH	Rser=2.3mohm	
Lsec1	1	2	1906.25uH	Rser=10440mohm	
K Lpri1    Lsec1        1					
.param Cprm1=42187pf					
.param Rdmp1=85.03ohm					
Cpri1	3	4	{Cprm1}	Rser=10mohm	
Rdmp1	3	4	{Rdmp1}		
Rg3	3	0	20meg		
Rg7	4	0	20meg		
Rg11	1	0	20meg		
Rg19	2	0	20meg		
.ends					

.subckt	749252150		3  4  1  2		
.param RxLkg=5.81ohm					
.param Leakage=0.01uh					
Rlkg	3	3a	{RxLkg}		
L_Lkg	3	3a	{Leakage}	Rser=0.001mohm	
Lpri1	3a	4	0.112uH	Rser=2.3mohm	
Lsec1	1	2	2745uH	Rser=15530mohm	
K Lpri1    Lsec1        1					
.param Cprm1=60750pf					
.param Rdmp1=70.86ohm					
Cpri1	3	4	{Cprm1}	Rser=10mohm	
Rdmp1	3	4	{Rdmp1}		
Rg3	3	0	20meg		
Rg7	4	0	20meg		
Rg11	1	0	20meg		
Rg19	2	0	20meg		
.ends					
		